US08242124B2
tert-Butyl 3-cyano-2-oxo-1-phenyl-1,2,7,8-tetrahydro-1,6-naphthyridine-6(5H)-carboxylate (150 mg, 0.427 mmol) was dissolved in CH2Cl2 (3 mL) and TFA (0.3 mL). The mixture was stirred at room temperature overnight. All solvents were removed under vacuum to give crude 2-oxo-1-phenyl-1,2,5,6,7,8-hexahydro-1,6-naphthyridine-3-carbonitrile. LCMS: m/z 252.15 (M+H)+, 0.78 min (method 7).

reactant | tert-Butyl 3-cyano-2-oxo-1-phenyl-1,2,7,8-tetrahydro-1,6-naphthyridine-6(5H)-carboxylate | 0.427 mmol, 150 mg | C(#N)C=1C(N(C=2CCN(CC2C1)C(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C20H21N3O3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-oxo-1-phenyl-1,2,5,6,7,8-hexahydro-1,6-naphthyridine-3-carbonitrile | O=C1N(C=2CCNCC2C=C1C#N)C1=CC=CC=C1 | C15H13N3O
